US09290451B2
c) (S)-3-Amino-4-cyclopropyl-2-methyl-butan-2-ol
A solution of (S)-tert-butyl 1-cyclopropyl-3-hydroxy-3-methylbutan-2-ylcarbamate (0.8 g, 3 mmol) in ethyl acetate was saturated with hydrochloride (10 mL) and stirred for 1 h at room temperature. After diluting with water (20 mL), the layers were separated and the water phase was washed with ethyl acetate (20 mL). Then it was adjusted with 1 N NaOH to pH=8˜9 and extracted with methylene chloride (3×20 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated to give the title compound as yellow oil (0.3 g, 64%); MS (EI): m/e=144.2 [M+Na]+.

reactant | (S)-tert-butyl 1-cyclopropyl-3-hydroxy-3-methylbutan-2-ylcarbamate | 3 mmol, 0.8 g | C1(CC1)C[C@@H](C(C)(C)O)NC(OC(C)(C)C)=O | C13H25NO3
reactant | hydrochloride | 10 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | (S)-3-Amino-4-cyclopropyl-2-methyl-butan-2-ol | 0.3 g, 64% | N[C@H](C(C)(O)C)CC1CC1 | C8H17NO
